US04703052
2-Benzyl-2,3-dihydrobenzofuran
To a solution of 22 g (0.1 mole) of 2-benzoylbenzo(b)furan in 250 ml acetic acid was added 3 g 10% Pd/C catalyst and the mixture hydrogenated at 3 atmospheres pressure, with shaking for 70 hours. The mixture was filtered and the filtrate concentrated in vacuo to obtain 19.4 g (92%) of the desired product.

reactant | 2-benzoylbenzo(b)furan | 0.1 mole, 22 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(O1)C=CC=C2 | C15H10O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 2-Benzyl-2,3-dihydrobenzofuran | 19.4 g, 92% | C(C1=CC=CC=C1)C1OC2=C(C1)C=CC=C2 | C15H14O
